US20010008892A1
S-[2-(1-Methylethyl)-4-thiazolylmethyl] [(1S)-1-[[[(1S,2R)-3-[(2S)-4-(1,3-benzodioxol-5-ylmethyl)-2-[[(1,1-dimethylethyl)amino]carbonyl]-1-piperazinyl]-2-hydroxy-1-(phenylmethyl)propyl]amino]carbonyl]-2-methylpropyl]carbamothioate
The title compound is prepared according to the method described in Example 1D, substituting S-[2-(1-methylethyl)-4-thiazolylmethyl] [(1S)-1-[[[(1S,2R)-3-[(2S)-4-(1,1-dimethylethyloxy(carbonyl))-2-[[(1,1-dimethylethyl)amino]carbonyl]-1-piperazinyl]-2-hydroxy-1-(phenylmethyl)propyl]amino]carbonyl]-2-methylpropyl]carbamothioate in place of 2-(1-methylethyl)-4-thiazolylmethyl-(1S)-1-[[[(1S,2R)-3-[(2S)-4-(1,1-dimethylethyloxy(carbonyl))-2-[[(1,1-dimethylethyl)amino]carbonyl]-1-piperazinyl]-2-hydroxy-1-(phenylmethyl)propyl]amino]carbonyl]-2-methylpropyl]carbamate.

reactant | S-[2-(1-methylethyl)-4-thiazolylmethyl] [(1S)-1-[[[(1S,2R)-3-[(2S)-4-(1,1-dimethylethyloxy(carbonyl))-2-[[(1,1-dimethylethyl)amino]carbonyl]-1-piperazinyl]-2-hydroxy-1-(phenylmethyl)propyl]amino]carbonyl]-2-methylpropyl]carbamothioate | CC(C)(OC(=O)N1C[C@H](N(CC1)C[C@H]([C@H](CC1=CC=CC=C1)NC(=O)[C@H](C(C)C)NC(SCC=1N=C(SC1)C(C)C)=O)O)C(=O)NC(C)(C)C)C | C37H58N6O6S2
reactant | carbamate | C(N)([O-])=O
product | S-[2-(1-Methylethyl)-4-thiazolylmethyl] [(1S)-1-[[[(1S,2R)-3-[(2S)-4-(1,3-benzodioxol-5-ylmethyl)-2-[[(1,1-dimethylethyl)amino]carbonyl]-1-piperazinyl]-2-hydroxy-1-(phenylmethyl)propyl]amino]carbonyl]-2-methylpropyl]carbamothioate | O1COC2=C1C=CC(=C2)CN2C[C@H](N(CC2)C[C@H]([C@H](CC2=CC=CC=C2)NC(=O)[C@H](C(C)C)NC(SCC=2N=C(SC2)C(C)C)=O)O)C(=O)NC(C)(C)C | C40H56N6O6S2
